US04618677
The procedure described in Example 2 was followed, using 0.4 g of methyl isocyanate, 2.0 g of 3-[4-(4-chlorobenzyl)piperazin- 1-yl]propanethiol dihydrochloride, 0.7 g of triethylamine and 50 ml of methylene chloride, to give 0.75 g (32% of theory) of N-methyl-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 240°-243° C.

reactant | methyl isocyanate | 0.4 g | CN=C=O | C2H3NO
reactant | 3-[4-(4-chlorobenzyl)piperazin- 1-yl]propanethiol dihydrochloride | 2.0 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 0.75 g, 32% | Cl.Cl.CNC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C16H26ClN3OS.2ClH/c1-18-16(21)22-12-2-7-19-8-10-20(11-9-19)13-14-3-5-15(17)6-4-14;;/h3-6,18,21-22H,2,7-13H2,1H3;2*1H
